US04060615
N-(Cycloheptylcarbonyl)piperazine (0.02 mole) and 2-chloro-4-amino-6,7-dimethoxyquinazoline (0.02 mole) are reacted according to the procedure of Example 7. Crystallization of the product from methanol-isopropanol provides analytically pure 4-amino-2-[4-(cycloheptylcarbonyl)-1-piperazinyl]-6,7-dimethoxyquinazoline hydrochloride, m.p. 278°-279° C. (corr.).

reactant | N-(Cycloheptylcarbonyl)piperazine | 0.02 mole | C1(CCCCCC1)C(=O)N1CCNCC1 | C12H22N2O
reactant | 2-chloro-4-amino-6,7-dimethoxyquinazoline | 0.02 mole | ClC1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C10H10ClN3O2
product | 4-amino-2-[4-(cycloheptylcarbonyl)-1-piperazinyl]-6,7-dimethoxyquinazoline hydrochloride | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C1CCCCCC1 | InChI=1S/C22H31N5O3.ClH/c1-29-18-13-16-17(14-19(18)30-2)24-22(25-20(16)23)27-11-9-26(10-12-27)21(28)15-7-5-3-4-6-8-15;/h13-15H,3-12H2,1-2H3,(H2,23,24,25);1H
